US04689171
9.9 g of 1,8-dihydroxy-4,5-dinitroanthraquinone are dissolved in a mixture of 15.6 g of boric acid and 228 g of 100 percent sulphuric acid. The solution obtained is cooled down to -10° to 0° C. and 7.4 g of anisole are added dropwise. The temperature is maintained for a further 1 hour at 0° C. and then the mixture is poured onto 240 g of ice and heated to reflux for 4 hours. The solid is filtered off with suction, washed with water to neutrality and dried at 60° C. 12.6 g of 1,8-dihydroxy-2,7-di(4-methoxyphenyl)-4,5-dinitroanthraquinone, corresponding to a yield of 77% of theory, are obtained.

reactant | 1,8-dihydroxy-4,5-dinitroanthraquinone | 9.9 g | OC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)[N+](=O)[O-])=O)[N+](=O)[O-] | C14H6N2O8
reactant | anisole | 7.4 g | C1(=CC=CC=C1)OC | C7H8O
solvent | boric acid | 15.6 g | B(O)(O)O | BH3O3
solvent | sulphuric acid | 228 g | S(O)(O)(=O)=O | H2O4S
product | 1,8-dihydroxy-2,7-di(4-methoxyphenyl)-4,5-dinitroanthraquinone | 12.6 g, yield of 77% | OC1=C(C=C(C=2C(C3=C(C=C(C(=C3C(C12)=O)O)C1=CC=C(C=C1)OC)[N+](=O)[O-])=O)[N+](=O)[O-])C1=CC=C(C=C1)OC | C28H18N2O10
